US05324747
A mixture of 1.16 g of N-(carboxymethyl)-N-[3-(octadecyloxy)-5-[4-[2,3-bis(phenylmethoxy)-6-naphthalenyl]butoxy]phenyl]glycine and 0.35 g of 10% palladium on carbon in 75 ml of THF was stirred under a hydrogen atmosphere until uptake ceased after 6 hours. The catalyst was removed by filtration through a Celite pad and the filtrate was concentrated to a solid which was triturated with hexane and filtered to give 0.835 g (90% yield, mp 153°-155°) of N-(carboxymethyl)-N-[3-[4-(2,3-dihydroxy-6-naphthalenyl)butoxy]-5-(octadecyloxy)phenyl]glycine.

reactant | N-(carboxymethyl)-N-[3-(octadecyloxy)-5-[4-[2,3-bis(phenylmethoxy)-6-naphthalenyl]butoxy]phenyl]glycine | 1.16 g | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCC=1C=C2C=C(C(=CC2=CC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC | C56H73NO8
catalyst | palladium on carbon | 0.35 g | [Pd] | Pd
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | N-(carboxymethyl)-N-[3-[4-(2,3-dihydroxy-6-naphthalenyl)butoxy]-5-(octadecyloxy)phenyl]glycine | 0.835 g, 90% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCCC=1C=C2C=C(C(=CC2=CC1)O)O | C42H61NO8
